US08071586B2
B) (S)-2-[Benzyloxycarbonyl-(2,2-dimethoxy-ethyl)-amino]-propionic acid methyl ester
Benzyl chloroformate (4.46 g, 24.8 mmol) was added at 0° C. to a mixture of (S)-2-(2,2-dimethoxy-ethylamino)-propionic acid methyl ester (4.75 g, 24.8 mmol) and sodium hydrogencarbonate (4.17 g, 49.7 mmol) in acetone (25 mL) and water (25 mL). The ice bath was removed, then after 2 h the reaction mixture was poured onto ice water and extracted with ethyl acetate. The organic layer was dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; heptane-ethyl acetate gradient afforded the title compound (5.84 g, 72%). Yellow oil, MS (ISP)=348.2 (M+Na)+.

reactant | Benzyl chloroformate | 24.8 mmol, 4.46 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | (S)-2-(2,2-dimethoxy-ethylamino)-propionic acid methyl ester | 24.8 mmol, 4.75 g | COC([C@H](C)NCC(OC)OC)=O | C8H17NO4
reactant | sodium hydrogencarbonate | 49.7 mmol, 4.17 g | C(O)([O-])=O.[Na+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
solvent | water | 25 mL | O | H2O
product | (S)-2-[Benzyloxycarbonyl-(2,2-dimethoxy-ethyl)-amino]-propionic acid methyl ester | 5.84 g, 72% | COC([C@H](C)N(CC(OC)OC)C(=O)OCC1=CC=CC=C1)=O | C16H23NO6
